US09108939B2
B: 1-(4-(1-(1-(4-(1,1,1,3,3,3-Hexafluoro-2-hydroxypropan-2-yl)benzyl)piperidin-4-yl)ethyl)phenyl)-3-(2-hydroxy-2-methylpropyl)urea
2-(4-((4-(1-(4-Aminophenyl)ethyl)piperidin-1-yl)methyl)phenyl)-1,1,1,3,3,3-hexafluoro-propan-2-ol (0.178 mmol, 82 mg) and 4-nitrophenyl chloroformate (0.178 mmol, 35.9 mg) were combined in tetrahydrofuran (2 mL) and the reaction stirred at room temperature for 1 hour. 1-Amino-2-methylpropan-2-ol (0.178 mmol, 15.87 mg) and triethylamine (0.534 mmol, 54.1 mg) were added and the mixture stirred at room temperature overnight. The mixture was concentrated under reduced pressure and the resulting residue purified by silica gel column chromatography (eluting with dichloromethane to 10% methanol/dichloromethane) to afford the title compound (16 mg). MS (ESI) m/z 576.2 [M+H]+

reactant | 2-(4-((4-(1-(4-Aminophenyl)ethyl)piperidin-1-yl)methyl)phenyl)-1,1,1,3,3,3-hexafluoro-propan-2-ol | 0.178 mmol, 82 mg | NC1=CC=C(C=C1)C(C)C1CCN(CC1)CC1=CC=C(C=C1)C(C(F)(F)F)(C(F)(F)F)O | C23H26F6N2O
reactant | 4-nitrophenyl chloroformate | 0.178 mmol, 35.9 mg | ClC(=O)OC1=CC=C(C=C1)[N+](=O)[O-] | C7H4ClNO4
reactant | 1-Amino-2-methylpropan-2-ol | 0.178 mmol, 15.87 mg | NCC(C)(O)C | C4H11NO
reactant | triethylamine | 0.534 mmol, 54.1 mg | C(C)N(CC)CC | C6H15N
solvent | tetrahydrofuran | 2 mL | O1CCCC1 | C4H8O
product | 1-(4-(1-(1-(4-(1,1,1,3,3,3-Hexafluoro-2-hydroxypropan-2-yl)benzyl)piperidin-4-yl)ethyl)phenyl)-3-(2-hydroxy-2-methylpropyl)urea | 16 mg | FC(C(C(F)(F)F)(O)C1=CC=C(CN2CCC(CC2)C(C)C2=CC=C(C=C2)NC(=O)NCC(C)(C)O)C=C1)(F)F | C28H35F6N3O3
